US09238639B2
C) Methyl 6-((2,4-dichlorobenzyl)sulfanyl)-3-(2-ethoxy-2-oxoethoxy)thieno[2,3-b]pyridine-2-carboxylate
To a mixture of methyl 6-chloro-3-(2-ethoxy-2-oxoethoxy)thieno[2,3-b]pyridine-2-carboxylate (126.4 mg) and DMSO (3.8 mL) were added K2CO3 (63.6 mg) and 2,4-dichlorobenzyl mercaptan (0.065 mL). The mixture was stirred at 80° C. for 3 h. The mixture was quenched with saturated aqueous NaHCO3 and extracted with EtOAc. The combined organic layer was washed successively with water and brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (73.9 mg).

reactant | methyl 6-chloro-3-(2-ethoxy-2-oxoethoxy)thieno[2,3-b]pyridine-2-carboxylate | 126.4 mg | ClC1=CC=C2C(=N1)SC(=C2OCC(=O)OCC)C(=O)OC | C13H12ClNO5S
reactant | K2CO3 | 63.6 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,4-dichlorobenzyl mercaptan | 0.065 mL | ClC1=C(CS)C=CC(=C1)Cl | C7H6Cl2S
solvent | DMSO | 3.8 mL | CS(=O)C | C2H6OS
product | Methyl 6-((2,4-dichlorobenzyl)sulfanyl)-3-(2-ethoxy-2-oxoethoxy)thieno[2,3-b]pyridine-2-carboxylate | 73.9 mg | ClC1=C(CSC2=CC=C3C(=N2)SC(=C3OCC(=O)OCC)C(=O)OC)C=CC(=C1)Cl | C20H17Cl2NO5S2
